US06403561B1
Preparation of 1-N-t-butoxycarbonyl-2(S)-aminobutyryl-5-chloroindoline-2(S)-carboxylic Acid Butylamide
5-Chloroindoline-2(R/S)-carboxylic acid butylamide (0.52 g, 2 mmol) and N-t-butoxycarbonyl-2(S)-aminobutyric acid (0.45 g, 2.2 mmol) were dissolved in methylene chloride (20 ml) and treated with bis(2-oxo-3-oxazolidinyl)phosphinyl chloride (0.64 g, 2.5 mmol) and triethylamine (0.5 g, 5 mmol). The mixture was stirred at room temperature for 12 h and then washed with 10% citric acid (3×50 ml), with 5% NaHCO3 (3×50 ml) and with water (50 ml). The organic phase was dried and concentrated. The residue was purified by chromatography to give the product.

reactant | 5-Chloroindoline-2(R/S)-carboxylic acid butylamide | 2 mmol, 0.52 g | C(CCC)NC(=O)C1NC2=CC=C(C=C2C1)Cl | C13H17ClN2O
reactant | N-t-butoxycarbonyl-2(S)-aminobutyric acid | 2.2 mmol, 0.45 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CC | C9H17NO4
reactant | bis(2-oxo-3-oxazolidinyl)phosphinyl chloride | 2.5 mmol, 0.64 g | O=C1OCCN1P(=O)(N1C(OCC1)=O)Cl | C6H8ClN2O5P
reactant | triethylamine | 5 mmol, 0.5 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 1-N-t-butoxycarbonyl-2(S)-aminobutyryl-5-chloroindoline-2(S)-carboxylic Acid Butylamide | C(CCC)NC(=O)[C@@]1(N(C2=CC=C(C=C2C1)Cl)C(=O)OC(C)(C)C)C([C@H](CC)N)=O | C22H32ClN3O4
